US06451804B1
A mixture of 7-benzylthio-3-(2-chlorophenyl)-1-(ethoxycarbonylmethyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one (1.435 g, 3.36 mmol) and lithium hydroxide monohydrate (481 mg, 11.5 mmol) in methanol (10 mL) and water (30 mL) were refluxed for 48 hours. The reaction mixture was cooled to room temperature and diluted with ethyl acetate/water. The aqueous layer was adjusted to pH 4 and extracted with ethyl acetate. The combined organic extracts were dried, filtered and concentrated in vacuo to give 1.2 g of 7-benzylthio-3-(2-chlorophenyl)-1-(hydroxycarbonylmethyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one.

reactant | 7-benzylthio-3-(2-chlorophenyl)-1-(ethoxycarbonylmethyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 3.36 mmol, 1.435 g | C(C1=CC=CC=C1)SC1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC=C2)Cl)=O)CC(=O)OCC | C23H21ClN4O3S
reactant | lithium hydroxide monohydrate | 11.5 mmol, 481 mg | O.[OH-].[Li+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 30 mL | O | H2O
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 7-benzylthio-3-(2-chlorophenyl)-1-(hydroxycarbonylmethyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 1.2 g | C(C1=CC=CC=C1)SC1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC=C2)Cl)=O)CC(=O)O | C21H17ClN4O3S
